US07414061B2
4-{5-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid ethyl ester
As described for Example 1, 3-(3-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole (3.89 g, 16.0 mmol) was converted, using 3-fluorobenzoic acid ethyl ester instead of 4-fluoroacetophenone, to the title compound (3.34 g, 53%) which was obtained as a yellow solid. MS: m/e=391.9[M+H]+.

reactant | 3-(3-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole | 16.0 mmol, 3.89 g | FC=1C=C(C=CC1)C1=NOC(=C1C=1N=CNC1)C | C13H10FN3O
reactant | 3-fluorobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)F)=O | C9H9FO2
product | 4-{5-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid ethyl ester | 3.34 g, 53% | C(C)OC(C1=CC=C(C=C1)N1C=NC=C1C=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C22H18FN3O3
